US06787536B2
4-(5-Bromopyrimidin-2-yl) piperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-(4-bromophenyl)-piperazine-1-carboxylic acid ter-butyl ester, from 5-bromo-2-piperazin-1-ylpyrimidine (5.00 g), to yield the title compound as a white solid (6.55 g, 93%)

reactant | 4-(4-bromophenyl)-piperazine-1-carboxylic acid ter-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C15H21BrN2O2
reactant | 5-bromo-2-piperazin-1-ylpyrimidine | 5.00 g | BrC=1C=NC(=NC1)N1CCNCC1 | C8H11BrN4
product | 4-(5-Bromopyrimidin-2-yl) piperazine-1-carboxylic acid tert-butyl ester | 6.55 g, 93% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
